US08859573B2
2-(4-((4-(trifluoromethyl)pyrimidin-2-yl)oxy)phenyl)ethanol
The title compound was prepared by a procedure similar to that described for D1 starting from 4-(2-hydroxyethyl)phenol and 2-chloro-4-(trifluoromethyl)pyrimidine. LC-MS (ESI): m/z 285 [M+H]+; 2.66 min (ret time).

reactant | 4-(2-hydroxyethyl)phenol | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
product | 2-(4-((4-(trifluoromethyl)pyrimidin-2-yl)oxy)phenyl)ethanol | FC(C1=NC(=NC=C1)OC1=CC=C(C=C1)CCO)(F)F | C13H11F3N2O2
